US04080451
3-(Carboxymethoxymethyl)-1,2,4-triazole-5-thiol
By employing a procedure similar to that described in Example XVI, Part A, 3-(ethoxycarbonylmethoxymethyl)-4-(p-methoxybenzyl)-1,2,4-triazole-5-thiol was prepared from ethoxycarbonylmethoxyacetohydrazide. The ethoxycarbonyl group was then hydrolyzed to the free acid using aqueous 2N sodium hydroxide, and the p-methoxybenzyl blocking group was thereafter removed by using trifluoroacetic acid in a manner similar to that earlier described in Example XVI, Part B to finally give pure 3-(carboxymethoxymethyl)-1,2,4-triazole-5-thiol, m.p. 180°-182° C.

reactant | 3-(ethoxycarbonylmethoxymethyl)-4-(p-methoxybenzyl)-1,2,4-triazole-5-thiol | C(C)OC(=O)COCC1=NN=C(N1CC1=CC=C(C=C1)OC)S | C15H19N3O4S
reactant | ethoxycarbonylmethoxyacetohydrazide | C(C)OC(=O)COCC(=O)NN | C6H12N2O4
reactant | sodium hydroxide | 2N | [OH-].[Na+]
product | 3-(Carboxymethoxymethyl)-1,2,4-triazole-5-thiol | C(=O)(O)COCC1=NNC(=N1)S | C5H7N3O3S
